US08703946B2
A 1M solution of lithium aluminum hydride in THF (6.5 mL, 6.5 mmol) was added dropwise to a stirred solution of 4,5,6,7-tetrahydro-4-oxo-5-(phenylmethyl)-pyrazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester (0.81 g, 2.7 mmol) in THF (16 mL) under N2 at 0° C. The reaction mixture was stirred at room temperature for 30 minutes, quenched with MeOH and the solvents evaporated in vacuo. The crude product was purified by flash column chromatography (silica; 7 M solution of ammonia in methanol in DCM 0/100 to 10/90). The desired fractions were collected and the solvents evaporated in vacuo to yield 4,5,6,7-tetrahydro-5-(phenylmethyl)-pyrazolo[1,5-a]pyrazine-2-methanol (0.67 g, 100% yield) as a colorless oil. C14H17N3O LCMS: Rt 1.25, m/z 244 [M+H]+ (see LCMS Method 1).

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4,5,6,7-tetrahydro-4-oxo-5-(phenylmethyl)-pyrazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester | 2.7 mmol, 0.81 g | C(C)OC(=O)C1=NN2C(C(N(CC2)CC2=CC=CC=C2)=O)=C1 | C16H17N3O3
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | THF | 6.5 mmol, 6.5 mL | C1CCOC1 | C4H8O
product | 4,5,6,7-tetrahydro-5-(phenylmethyl)-pyrazolo[1,5-a]pyrazine-2-methanol | 0.67 g, 100% yield | C1(=CC=CC=C1)CN1CC=2N(CC1)N=C(C2)CO | C14H17N3O
